US05071841
In DMF (10 ml) was dissolved 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid (500 mg) followed by addition of diethyl phosphorocyanidate (85%, 365 mg). The mixture was stirred for 30 minutes under ice-cooling and, then, 3-aminopyridine (160 mg) and triethylamine (202 mg) were added thereto. The reaction mixture was further stirred for one hour under ice-cooling and poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and the solvent was distilled off to give 6-cyclohexyl-N-(3-pyridyl)-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide (490 mg, yield 79%). Recrystallization from ethyl acetate-hexane gave colorless plates.

reactant | 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid | 500 mg | C1(CCCCC1)C=1C=CC2=C(C(CSC2C(=O)O)=O)C1 | C16H18O3S
reactant | diethyl phosphorocyanidate | 365 mg | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | 3-aminopyridine | 160 mg | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-cyclohexyl-N-(3-pyridyl)-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxamide | 490 mg, yield 79% | C1(CCCCC1)C=1C=CC2=C(C(CSC2C(=O)NC=2C=NC=CC2)=O)C1 | C21H22N2O2S
